US08003647B2
6-Fluoro-1H-indole-3-carbonitrile
To a solution of 6-fluoro-1H-indole-3-carbaldehyde (0.97 g) in 90% formic acid (25 mL) were added hydroxylamine (0.65 g) and sodium formate (0.81 g), and this mixture was stirred at 100° C. for 3 hours. After cooling to ambient temperature, water was added to this reaction mixture and the precipitated solid was collected by filtration, and washed with water, dried to give the title compound (0.57 g).

reactant | 6-fluoro-1H-indole-3-carbaldehyde | 0.97 g | FC1=CC=C2C(=CNC2=C1)C=O | C9H6FNO
reactant | hydroxylamine | 0.65 g | NO | H3NO
reactant | sodium formate | 0.81 g | C(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | formic acid | 25 mL | C(=O)O | CH2O2
product | 6-Fluoro-1H-indole-3-carbonitrile | 0.57 g | FC1=CC=C2C(=CNC2=C1)C#N | C9H5FN2
